US04596809
(C) 4-Hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one
In a similar manner, substitute 4-bromo-1-butene for allyl bromide in part B(1) of Preparation 1 to prepare 3-(3-butenyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one.

reactant | 4-bromo-1-butene | BrCCC=C | C4H7Br
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 3-(3-butenyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | C(CC=C)C=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C18H16N2O2
product | 4-Hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC=C | C17H14N2O2
